US04388469
A mixture of 1.0 g of 1-[3-(N,N-dimethylamino)propoxy]-1-(p-fluorophenyl)-4-phenylbutane, 2.75 g of potassium carbonate, 11 ml of ethyl chloroformate and 20 ml of toluene was heated under refluxing for 2 hours. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 1-[3-(N-methyl-N-ethoxycarbonylamino)propoxy]-1-(p-fluorophenyl)-4-phenylbutane.

reactant | 1-[3-(N,N-dimethylamino)propoxy]-1-(p-fluorophenyl)-4-phenylbutane | 1.0 g | CN(C)CCCOC(CCCC1=CC=CC=C1)C1=CC=C(C=C1)F | C21H28FNO
reactant | potassium carbonate | 2.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 11 ml | ClC(=O)OCC | C3H5ClO2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-[3-(N-methyl-N-ethoxycarbonylamino)propoxy]-1-(p-fluorophenyl)-4-phenylbutane | CN(C(=O)OCC)CCCOC(CCCC1=CC=CC=C1)C1=CC=C(C=C1)F | C23H30FNO3
